US05244917
2-Amino-4-benzyl-3-carbomethoxy-5-hydroxynaphtho[1,2-b]furan
The title compound was prepared by reaction of methyl cyanoacetate with 2-benzyl-1,4-naphthoquinone following the procedure outlined for example 1. Obtained as tan crystals (55%); m.p. 170°-171° C.; 1H NMR (CDCl3): 3.66(s, 3H), 4.05(s,2H), 5.07(s,2H), 7.17-7.53(m, 8H), 7.98(d, 1H), 8.10(d,1H); IR (nujol): 3309, 3479, 3566, 1725, 1604; Chemical ionization mass spectrum m/z (rel. intensity) 348 (M+H, 100); calculated for C21H17NO4C 72.61, H 4.93; measured C 72.79, H 4.68, N 4.00.

reactant | methyl cyanoacetate | C(#N)CC(=O)OC | C4H5NO2
reactant | 2-benzyl-1,4-naphthoquinone | C(C1=CC=CC=C1)C=1C(C2=CC=CC=C2C(C1)=O)=O | C17H12O2
product | 2-Amino-4-benzyl-3-carbomethoxy-5-hydroxynaphtho[1,2-b]furan | NC1=C(C2=C(O1)C1=CC=CC=C1C(=C2CC2=CC=CC=C2)O)C(=O)OC | C21H17NO4
